US04049639
1.2 g. of N-butyl-acetamidine (Bp.: 76°-78° C./0.4 torr) are dissolved in 50 ml of anhydrous ethanol, whereafter 1.4 g. of 5-diazo-imidazole-4-carboxamide are added at 25° C. under stirring within 10 minutes. After 2.5 hours the orange-colored solution is clarified with activated characoal and evaporated in vacuo. 2.6 g. of a slowly crystallizing resin are obtained, which is twice crystallized from an ethanol-acetone mixture. Thus, a colorless, crystalline product, the 5-[3-n-butyl-3-(alpha-iminoethyl)-1-triazeno]-imidazole-4-carboxamide, melting at 191° C., is obtained (decomposition)

reactant | N-butyl-acetamidine | C(CCC)NC(C)=N | C6H14N2
reactant | 5-diazo-imidazole-4-carboxamide | [N+](=[N-])=C1C(=NC=N1)C(=O)N | C4H3N5O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-[3-n-butyl-3-(alpha-iminoethyl)-1-triazeno]-imidazole-4-carboxamide | C(CCC)N(N=NC1=C(N=CN1)C(=O)N)C(C)=N | C10H17N7O
